US04480112
This invention encompasses a method and intermediates for preparing a commercial sweetening agent, α-L-aspartyl-L-phenylalanine methyl ester. The process involves reacting L-aspartic acid with diketene to form N-acetoacetyl-L-aspartic acid which is converted to N-acetoacetyl-L-aspartic anhydride by reaction with acetic anhydride. N-acetoacetyl-L-aspartic anhydride is reacted with L-phenylalanine methyl ester to provide N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester which is converted to α-L-aspartyl-L-phenylalanine methyl ester by reaction with hydroxylamine hydrochloride.

reactant | N-acetoacetyl-L-aspartic anhydride | C(CC(=O)C)(=O)N[C@H]1CC(=O)OC1=O | C8H9NO5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
product | N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(CC(=O)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C18H22N2O7
